US04416880
2-(4-Chlorobenzylidene)-3-oxo-4-chlorobutyric acid ethyl ester
25.7 g of 4-chloroacetoacetic acid ethyl ester, 23.9 g of 4-chlorobenzaldehyde, 0.7 ml of piperidine and 18 ml of glacial acetic acid were dissolved in 15 ml of benzene. The solution was boiled for 5 hours, using a water separator, and was allowed to cool, and 300 ml of ether were added. After the mixture had been washed three times with water, it was dried over magnesium sulphate and the solvent was evaporated off. The residue was distilled under a high vacuum. The product obtained was a Z/E mixture in a ratio of 3/1. Yield: 23.4%, boiling point 0.5: 161° to 165°.

reactant | 4-chloroacetoacetic acid ethyl ester | 25.7 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | 4-chlorobenzaldehyde | 23.9 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | piperidine | 0.7 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(4-Chlorobenzylidene)-3-oxo-4-chlorobutyric acid ethyl ester | Yield: 23.4% | C(C)OC(C(C(CCl)=O)=CC1=CC=C(C=C1)Cl)=O | C13H12Cl2O3
